US09388153B2
Step 4. 2-(3-((7-(3-Fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetic acid
Aqueous lithium hydroxide (1 N, 1 mL, 1 mmol) was added to a solution of isopropyl 2-(3-((7-(3-fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetate (5 mg, 0.012 mmol) in THF (1 mL) in a scintillation vial. The vial was sealed and heated at 40° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were concentrated in vacuo. The residue was acidified with hydrochloric acid (1 N, 1 mL), and extracted with ethyl acetate (3×2 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated to afford 3 mg (66%) of the title compound.

reactant | lithium hydroxide | 1 mmol, 1 N, 1 mL | [OH-].[Li+]
reactant | isopropyl 2-(3-((7-(3-fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetate | 0.012 mmol, 5 mg | FC=1C=C(C=CC1)C1=CC=C2CCCC(C2=C1)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C27H28FNO3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(3-((7-(3-Fluorophenyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)phenoxy)acetic acid | 3 mg, 66% | FC=1C=C(C=CC1)C1=CC=C2CCCC(C2=C1)NC=1C=C(OCC(=O)O)C=CC1 | C24H22FNO3
